US06001849
5a. 2-(1-BOC-2-(S)-pyrrolidinyl)-5-methylfuro[3,2-b]pyridine
A 3.10 g (13.2 mmol) sample of 6-iodo-2-picoline-5-ol (Aldrich Chem. Co.) was dissolved in 5 mL of DMF, and (Ph3P)2PdCl2 (0.38 g, 0.50 mmol), CuI (0.377 g, 1.98 mmol) and triethylamine (1.80 mL, 13.2 mmol) were added. The mixture was stirred under N2 at room temperature for 1 hour, then 2.15 g (11 mmol) of 1-BOC-2-(S)-ethynylpyrrolidine, from Example 1c above, dissolved in 1 mL of DMF, was added carefully. The reaction was stirred at 60° C. for 16 hours, then cooled to room temperature. The reaction mixture was diluted with 2 N HCl and extracted with ether. The aqueous layer was adjusted to pH 10 with K2CO3, then extracted with CH2Cl2. The extract was washed with 20% NaOH, brine, dried over MgSO4, and the solvent was removed. The residue was repeatedly dissolved in toluene and distilled to azeotropically remove the DMF. The residue was chromatographed on silica gel, eluting with 100:0 to 50:50 hexane:EtOAc to give 521 mg of title compound: 1H NMR (CDCl3, 300 MHz) δ 1.33 and 1.47 (2 s, 9H), 1.90-2.30 (m, 4H), 2.63 (s, 3H), 3.45-3.65 (m, 2H), 4.95 and 5.10 (2 s, 1H), 5.58 (s, 1H), 7.02 (d, 1H), 7.55 (d, 1H); MS m/z: 303 (M+H)+.

reactant | 6-iodo-2-picoline-5-ol | IC1=C(C=CC(=N1)C)O | C6H6INO
reactant | triethylamine | 13.2 mmol, 1.80 mL | C(C)N(CC)CC | C6H15N
reactant | 1-BOC-2-(S)-ethynylpyrrolidine | 11 mmol, 2.15 g | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C#C | C11H17NO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | HCl | 2 N | Cl | ClH
catalyst | (Ph3P)2PdCl2 | 0.50 mmol, 0.38 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 1.98 mmol, 0.377 g | [Cu]I
product | 2-(1-BOC-2-(S)-pyrrolidinyl)-5-methylfuro[3,2-b]pyridine | 521 mg | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C1=CC2=NC(=CC=C2O1)C | C17H22N2O3
